US04188397
2,2'-[1,4-Butanediylbis(thio)]bis[4,5-bis(4-fluorophenyl)-1H-imidazole]
A mixture of 4,5-bis(4-fluorophenyl)-1H-imidazole-2-thione (5.8 g, 0.02 mol) and 1,4-dibromobutane (4.3 g, 0.02 mol) in dioxane (75 ml) was refluxed one hour. After cooling, ether was added and the solid which formed was removed by filtration. This product was air dried and recrystallized from isopropanol to give the title compound as its dihydrobromide salt (hydrate), m.p. 172°-174°.

reactant | 4,5-bis(4-fluorophenyl)-1H-imidazole-2-thione | 0.02 mol, 5.8 g | FC1=CC=C(C=C1)C=1NC(NC1C1=CC=C(C=C1)F)=S | C15H10F2N2S
reactant | 1,4-dibromobutane | 0.02 mol, 4.3 g | BrCCCCBr | C4H8Br2
reactant | ether | CCOCC | C4H10O
solvent | dioxane | 75 ml | O1CCOCC1 | C4H8O2
product | 2,2'-[1,4-Butanediylbis(thio)]bis[4,5-bis(4-fluorophenyl)-1H-imidazole] | C(CCCSC=1NC(=C(N1)C1=CC=C(C=C1)F)C1=CC=C(C=C1)F)SC=1NC(=C(N1)C1=CC=C(C=C1)F)C1=CC=C(C=C1)F | C34H26F4N4S2
